US09120749B2
tert-Butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (581 mg, 1.87 mmol) was reacted with tert-butyl trans-4-aminocyclohexylcarbamate (865 mg, 4.00 mmol) to afford the desired product (525 mg, 56%): ESI MS m/z 488 [C24H30BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.87 mmol, 581 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl trans-4-aminocyclohexylcarbamate | 4.00 mmol, 865 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 525 mg, 56% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
